US04214004
(2,4-Difluoro-[1,1'-biphenyl]-3-yl)methyl 3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate
To a mixture of cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylic acid (2.2 g, 0.11 mole) in 75 ml of heptane was added sodium hydroxide (0.42 g, 0.011 mole) in 5 ml of water. The mixture was shaken until the acid dissolved. The water was then removed by distillation, the volume of the reaction mixture being reduced to 50 ml. To the reaction mixture was added 3-bromomethyl-2,4-difluoro[1,1'-biphenyl] (3.0 g, 0.011 mole) and 0.1 gram of 1,4-diazabicyclo[2.2.2]octane in 35 ml of acetonitrile. The mixture was heated under reflux for 3 hours. The solvent was then removed by evaporation under reduced pressure, and the residue was partitioned between water and diethyl ether. The ether phase was washed with two portions of aqueous 2% hydrochloric acid, two portions of water, two portions of aqueous 10% sodium carbonate, two portions of water and one portion of aqueous saturated sodium chloride solution in that order. The washed ethereal solution was dried over magnesium sulfate, and the ether was evaporated under reduced pressure. The oily residue was purified by column chromatography on silical gel, elution with hexane. This afforded (2,4-difluoro-[1,1'-biphenyl]-3-yl)methyl cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate (1.8 g), Example XIV in Table 1.

reactant | cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylic acid | 0.11 mole, 2.2 g | ClC(=C[C@H]1C([C@H]1C(=O)O)(C)C)Cl | C8H10Cl2O2
reactant | sodium hydroxide | 0.011 mole, 0.42 g | [OH-].[Na+]
reactant | 3-bromomethyl-2,4-difluoro[1,1'-biphenyl] | 0.011 mole, 3.0 g | BrCC=1C(=C(C=CC1F)C1=CC=CC=C1)F | C13H9BrF2
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.1 gram | N12CCN(CC1)CC2 | C6H12N2
solvent | heptane | 75 ml | CCCCCCC | C7H16
solvent | water | 5 ml | O | H2O
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | (2,4-Difluoro-[1,1'-biphenyl]-3-yl)methyl 3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate | ClC(=CC1C(C1C(=O)OCC=1C(=C(C=CC1F)C1=CC=CC=C1)F)(C)C)Cl | C21H18Cl2F2O2
